US05102891
1-[(3-Fluoro-4-pyridinyl)propylamino]-1H-indol-5-ol hydrochloride
In a 500 ml Parr hydrogenation bottle, 10% Pd/C (1.5 g) was suspended in 50 ml ethanol, and to this was added a solution of 1-[(3-fluoro-4-pyridinyl)propylamino]-5-phenylmethoxy-1H-indole (15.0 g) in 200 ml ethanol. The mixture was shaken under 50 psi hydrogen gas for three hours at 50° C. Upon cooling, the mixture was filtered, and the filtrate was concentrated to give a solid, 11.4 g. This material was eluted on a silica gel column with ethyl acetate/dichloromethane (1:3) via HPLC, and the desired fractions were concentrated to give a solid, 8.5 g, m.p. 90°-95° C. A 2.0 g sample of this material was dissolved in 50 ml methanol, the pH was adjusted to 1 with ethereal HCl, and the solution was diluted with 200 ml ether. The resultant precipitate was collected and dried to give 2.1 g of the product, m.p. 218° C. (dec.).

reactant | 1-[(3-fluoro-4-pyridinyl)propylamino]-5-phenylmethoxy-1H-indole | 15.0 g | FC=1C=NC=CC1CCCNN1C=CC2=CC(=CC=C12)OCC1=CC=CC=C1 | C23H22FN3O
reactant | hydrogen | [H][H] | H2
reactant | HCl | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | methanol | 50 ml | CO | CH4O
solvent | ether | 200 ml | CCOCC | C4H10O
catalyst | Pd/C | 1.5 g | [Pd] | Pd
product | 1-[(3-Fluoro-4-pyridinyl)propylamino]-1H-indol-5-ol hydrochloride | 2.1 g | Cl.FC=1C=NC=CC1CCCNN1C=CC2=CC(=CC=C12)O | InChI=1S/C16H16FN3O.ClH/c17-15-11-18-8-5-12(15)2-1-7-19-20-9-6-13-10-14(21)3-4-16(13)20;/h3-6,8-11,19,21H,1-2,7H2;1H
